US07419984B2
A mixture of 2,2,2-trifluoro-1-(4-nitro-phenyl)-ethane-1,1-diol (1.1 g, 4.6 mmol), palladium on carbon (100 mg, 10%), and ethanol (50 ml) was treated with hydrogen gas on a Parr shaker (50 psi) for 1 hour. The mixture was filtered through celite under suction and the filtrate was concentrated under reduced pressure to afford 1-(4-amino-phenyl)-2,2,2-trifluoro-ethanol (100% yield).

reactant | 2,2,2-trifluoro-1-(4-nitro-phenyl)-ethane-1,1-diol | 4.6 mmol, 1.1 g | FC(C(O)(O)C1=CC=C(C=C1)[N+](=O)[O-])(F)F | C8H6F3NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(4-amino-phenyl)-2,2,2-trifluoro-ethanol | 100% yield | NC1=CC=C(C=C1)C(C(F)(F)F)O | C8H8F3NO
